US05525742
Step B-2. To a stirred suspension of N-(3-azido-5-iodophenyl)-N'-cyanocarbamimidic acid, phenyl ester (B-1, 472 mg 1.16 mmol) in isopropanol was added 1-(3-fluorophenyl)cyclobutanamine (227 mg, 1.40 mmol). The reaction mixture was heated in a sealed tube at 82° C. overnight. The cooled reaction mixture was concentrated. The residue was purified by medium pressure liquid chromatography using 30% ethyl acetate in hexane as the eluent to afford 0.257 g of N-(3-azido-5-iodophenyl)-N'-cyano-N"-[1-(3-fluorophenyl)cyclobutyl]guanidine. (B-2). Mp=171°-173° C. (dec). IR (mull) 3195, 3135, 3078, 3002, 2953, 2925, 2854, 2188, 2110, 1614, 1608, 1587, 1573, 1542, 1448, 1440, 1430, 1365, 1309, 1292, 1245, 1221, 1162, 1041, 874 cm-1 ; 1H NMR (CDCl3) δ7.42 (m, 1 H), 7.26 (m, 2 H), 7.17 (m, 2 H), 7.06 (m, 1 H), 6.78 (m, 1 H), 2.59 (m, 4 H), 2.15 (m, 1 H), 2.00 (m, 1 H), 1.61 2, 2 H); 13C NMR (CDCl3) δ156.4, 138.0, 131.3, 124.9, 120.6, 116.3, 114.7, 114.4, 112.8, 112.5, 94.9, 59.6, 34.7, 14.8; Mass Spec (FAB) m/z 476 (M+1), 448, 434, 421, 350, 328, 300, 273, 216, 173, 149 (base). Exact mass calculated for C18H16FIN7 : 476.0498. Found: 476.0514. Analysis calculated for C18H15FIN7 : C, 45.49; H, 3.18; N, 20.63. Found: C, 45.23; H, 3.16; N, 20.37.

reactant | N-(3-azido-5-iodophenyl)-N'-cyanocarbamimidic acid, phenyl ester | 1.16 mmol, 472 mg | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(OC1=CC=CC=C1)=NC#N | C14H9IN6O
reactant | 1-(3-fluorophenyl)cyclobutanamine | 1.40 mmol, 227 mg | FC=1C=C(C=CC1)C1(CCC1)N | C10H12FN
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-(3-azido-5-iodophenyl)-N'-cyano-N"-[1-(3-fluorophenyl)cyclobutyl]guanidine | 0.257 g | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(=NC1(CCC1)C1=CC(=CC=C1)F)NC#N | C18H15FIN7
